US06472419B1
(2-Chloro-4-methoxyphenyl)acetic acid
657 g (purity 75%) of 2-chloro-4-methoxyphenylacetonitrile are reacted with 303 g of potassium hydroxide in 1308 ml of ethylene glycol. 430 g of solid are obtained (m.p.: 83-86° C.).

reactant | 2-chloro-4-methoxyphenylacetonitrile | 657 g | ClC1=C(C=CC(=C1)OC)CC#N | C9H8ClNO
reactant | potassium hydroxide | 303 g | [OH-].[K+]
reactant | ethylene glycol | 1308 ml | C(CO)O | C2H6O2
product | (2-Chloro-4-methoxyphenyl)acetic acid | 430 g | ClC1=C(C=CC(=C1)OC)CC(=O)O | C9H9ClO3
